US09145427B2
1H-Pyrazolo[3,4-c]pyridine was alkylated with 1,1,1-trifluoro-2-iodoethane, then reduced via hydrogenation over platinum(IV) oxide to afford 1-(2,2,2-trifluoroethyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine.

reactant | 1H-Pyrazolo[3,4-c]pyridine | N1N=CC=2C1=CN=CC2 | C6H5N3
reactant | 1,1,1-trifluoro-2-iodoethane | FC(CI)(F)F | C2H2F3I
catalyst | platinum(IV) oxide | [Pt](=O)=O
product | 1-(2,2,2-trifluoroethyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine | FC(CN1N=CC2=C1CNCC2)(F)F | C8H10F3N3
